US08877759B2
Iodomethane (17.09 mg, 7.496 μL, 0.1204 mmol) w as added to a stirred solution of 3-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]piperidine-3-carbonitrile (51 mg, 0.1204 mmol) and triethyl amine (30.46 mg, 41.96 μL, 0.3010 mmol) in chloroform (1 mL) and the reaction stirred at ambient temperature for 23 hours. A further portion of iodomethane (213.6 mg, 93.68 μL, 1.505 mmol) was added and the reaction stirred at ambient temperature for a further 5.5 hours. The solvent was removed in vacuo and the residue re-dissolved in dichloromethane and filtered. The filtrate was concentrated in vacuo and the residue purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 μM, 100 Å column, gradient 0%-100% B (solvent A: 10 mM ammonium formate in water; solvent B: 10 mM ammonium formate in 1:1 MeOH:CH3CN) over 14 minutes at 25 mL/min]. The relevant fractions were concentrated in vacuo and partitioned between dichloromethane/saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer extracted with dichloromethane (×3). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was freeze-dried to give 3-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-1-methyl-piperidine-3-carbonitrile Compound I-37 as a yellow solid (14.1 mg, 27% Yield). 1H NMR (400.0 MHz, DMSO-d6) δ 1.96-1.71 (m, 4H), 2.20 (s, 3H), 2.21-2.19 (m, 1H), 2.68 (br d, 1H), 2.75 (br d, 1H), 3.22-3.20 (m, 1H), 7.21 (br s, 2H), 7.51-7.44 (m, 3H), 7.68 (s, 1H), 7.94-7.91 (m, 2H), 8.00 (dd, 1H), 8.12 (s, 1H), 8.59 (d, 1H) and 8.93 (s, 1H) ppm LC/MS m/z 438.2 [M+H]+.

reactant | Iodomethane | 0.1204 mmol, 7.496 μL, 17.09 mg | IC | CH3I
reactant | 3-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]piperidine-3-carbonitrile | 0.1204 mmol, 51 mg | NC=1N=CC(=NC1C1=CC(=NO1)C1=CC=CC=C1)C1=CC(=NC=C1)C1(CNCCC1)C#N | C24H21N7O
reactant | triethyl amine | 0.3010 mmol, 41.96 μL, 30.46 mg | C(C)N(CC)CC | C6H15N
reactant | iodomethane | 1.505 mmol, 93.68 μL, 213.6 mg | IC | CH3I
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-1-methyl-piperidine-3-carbonitrile | NC=1N=CC(=NC1C1=CC(=NO1)C1=CC=CC=C1)C1=CC(=NC=C1)C1(CN(CCC1)C)C#N | C25H23N7O
